US06825172B2
Preparation of trans, trans-5-quinolin-3-yl-penta-2,4-dienal
The title compound was prepared by a procedure analogous to Reference Example 5 by substituting 3-quinolinecarboxaldehyde for the 2-pyridinecarboxaldehyde of Reference Example 5. MS 210 (M+H)+.

reactant | 3-quinolinecarboxaldehyde | N1=CC(=CC2=CC=CC=C12)C=O | C10H7NO
reactant | 2-pyridinecarboxaldehyde | N1=C(C=CC=C1)C=O | C6H5NO
product | trans-5-quinolin-3-yl-penta-2,4-dienal | N1=CC(=CC2=CC=CC=C12)C=C/C=C/C=O | C14H11NO
